US04128648
B. 2,3,8,9-Tetrahydro-5-phenyl-9-(phenylmethylene)-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine
To a stirred suspension of 4-[(4,5-dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis(phenylmethylene)-2H-pyran-4-ol (2.5 g, 6.6 mmole) in toluene (100 ml) is added slowly a solution of titanium tetrachloride (0.63 g, 3.3 mmole) in toluene (6.1 ml). The yellow mixture is heated at reflux temperature for 45 minutes.

reactant | 4-[(4,5-dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis(phenylmethylene)-2H-pyran-4-ol | 6.6 mmole, 2.5 g | S1C(=NCC1)NC1(C(COCC1=CC1=CC=CC=C1)=CC1=CC=CC=C1)O | C22H22N2O2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 3.3 mmole, 0.63 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2,3,8,9-Tetrahydro-5-phenyl-9-(phenylmethylene)-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine | C1(=CC=CC=C1)C1C2=C(N=C3N1CCS3)C(COC2)=CC2=CC=CC=C2 | C22H20N2OS
